US08957203B2
Preparation of intermediate 1-chloro-3-(6-isopropoxypyridin-3-yl)-6-methoxyisoquinoline
A solution of 3-(6-isopropoxypyridin-3-yl)-6-methoxyisoquinolin-1-ol (400 mg, 1.289 mmol) in POCl3 (5 mL, 53.6 mmol) was refluxed for 14 h. Concentrated the solvent. The residue was taken into a mixture of DCM and 4N NaOH solution. The solution was adjusted PH to 7. The organic phase was collected and dried over sodium sulfate, filtered, then concentrated under vacuum. The crude material was purified by silica gel chromatography using 10% EtOAc/Hexanes as eluent to give 289 mg of the desired product 1-chloro-3-(6-isopropoxypyridin-3-yl)-6-methoxyisoquinoline as a solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 8.83 (dd, J=2.6, 0.6 Hz, 1H), 8.32 (dd, J=8.5, 2.5 Hz, 1H), 8.22 (d, J=9.3 Hz, 1H), 7.82 (s, 1H), 7.253 (dd, J=6.8, 2.5 Hz, 1H), 7.13 (d, J=2.5 Hz, 1H), 6.81 (dd, J=8.7, 0.6 Hz, 1H), 5.40 (quin, J=6.1 Hz, 1H), 4.00 (s, 3H), 1.41 (d, J=6.0 Hz, 6H). MS: MS m/z 329.02 (M++1).

reactant | 3-(6-isopropoxypyridin-3-yl)-6-methoxyisoquinolin-1-ol | 1.289 mmol, 400 mg | C(C)(C)OC1=CC=C(C=N1)C=1N=C(C2=CC=C(C=C2C1)OC)O | C18H18N2O3
reactant | POCl3 | 53.6 mmol, 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-3-(6-isopropoxypyridin-3-yl)-6-methoxyisoquinoline | 289 mg | ClC1=NC(=CC2=CC(=CC=C12)OC)C=1C=NC(=CC1)OC(C)C | C18H17ClN2O2
